US09126969B2
100 mg of 1,1-diethyl-3-[3-[6-fluoro-5-(4-piperidin-1-ylbutoxy)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl}urea in solution in 2 mL of dichloromethane with 1 mL of trifluoroacetic acid are stirred at ambient temperature for 18 hours. The solvent is evaporated off under vacuum by flash chromatography on an Intelliflash apparatus on an Analogix RS-12 cartridge with an eluent of 100% dichloromethane to 85/15 dichloromethane/methanol. 72 mg of 1,1-diethyl-3-{3-[6-fluoro-5-(4-piperidin-1-ylbutoxy)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}urea in the form of a trifluoroacetate salt are isolated in the form of a yellow solid. 1H NMR (400 MHz, DMSO-d6, δ in ppm). For this batch, we observe a 60%-40% resolution of tautomers with: 1.23 (m, 6H); from 1.30 to 1.91 (broad m, 10H); 2.70 to 3.53 (very broad m, 6H); 3.41 (m, 4H); 4.12 (m, 2H); 7.11 (d, J=8.0 Hz, 0.6H); from 7.24 to 7.30 (m, 0.8H); 7.44 (d, J=11.0 Hz, 0.6H); 8.00 (s, 1H); 8.94 (broad m, 1H); 9.77 (s, 0.4H); 9.79 (s, 0.6H); 12.9 (broad s, 0.4H); 12.95 (broad s, 0.6H); 13.0 (broad s, 1H).

reactant | 1,1-diethyl-3-[3-[6-fluoro-5-(4-piperidin-1-ylbutoxy)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl}urea | 100 mg | C(C)N(C(=O)NC=1C(=NN(C1)C1OCCCC1)C1=NC2=C(N1)C=C(C(=C2)OCCCCN2CCCCC2)F)CC | C29H42FN7O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1,1-diethyl-3-{3-[6-fluoro-5-(4-piperidin-1-ylbutoxy)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}urea | 72 mg | C(C)N(C(=O)NC=1C(=NNC1)C1=NC2=C(N1)C=C(C(=C2)OCCCCN2CCCCC2)F)CC | C24H34FN7O2
